US05324709
N-(5-(4-Acetoxytetrahydrofuran-3-yloxycarbonylmethoxy)-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide
In 15 ml of benzene were dissolved 0.66 g of N-(4-chloro-2-fluoro-5-(4-hydroxytetrahydrofuran-3-yloxycarbonylmethoxy)phenyl)-3,4,5,6-tetrahydrophthalimide and 0.20 g of triethylamine, followed by dropwise addition of a solution of 0.14 g of acetyl chloride in benzene. After stirring at room temperature for 4 hours, the reaction mixture was washed with water and subsequently with aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by chromatography on a silica gel column (eluted with ethyl acetate/hexane=2/3), to obtain 0.55 g of a compound described in Table 1 (No.3) (76 %).

reactant | N-(4-chloro-2-fluoro-5-(4-hydroxytetrahydrofuran-3-yloxycarbonylmethoxy)phenyl)-3,4,5,6-tetrahydrophthalimide | 0.66 g | ClC1=CC(=C(C=C1OCC(=O)OC1COCC1O)N1C(C2=C(C1=O)CCCC2)=O)F | C20H19ClFNO7
reactant | triethylamine | 0.20 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.14 g | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | N-(5-(4-Acetoxytetrahydrofuran-3-yloxycarbonylmethoxy)-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide | 0.55 g | C(C)(=O)OC1C(COC1)OC(=O)COC=1C(=CC(=C(C1)N1C(C2=C(C1=O)CCCC2)=O)F)Cl | C22H21ClFNO8
